US06936602B1
4-morpholinophenyl borate (237 mg) and 7-bromo-1-propyl-N-[4-[[N-methyl-N-(tetrahydropyran-4-yl)amino]methyl]phenyl]-2,3-dihydro-1-benzazepine-4-carboxamide (391 mg) were dissolved in water:ethanol toluene (=1:1:10, v/v, 18.0 ml), and potassium carbonate (253 mg) was added thereto. This mixture was stirred at room temperature for 30 minutes under argon atmosphere, tetrakistriphenylphosphinepalladium (35 mg) was added thereto, and the mixture was heated to reflux for 10 hours under argon atmosphere. The reaction mixture was diluted with ethyl acetate, and washed with water and saturated brine. The organic layer was dried with anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified with silica gel column chromatography (ethyl acetate→ethyl acetate:ethanol=10:1), which was further recrystallized from ethyl acetate-diisopropyl ether-hexane to give N-[4-[[N-methyl-N-(tetrahydropyran-4-yl)amino]methyl]phenyl]-7-(4-morpholinophenyl)-1-propyl-2,3-dihydro-1-benzazepine-4-carboxamide (222 mg) as yellow crystals.

reactant | 4-morpholinophenyl borate | 237 mg | B(OC1=CC=C(C=C1)N1CCOCC1)([O-])[O-]
reactant | 7-bromo-1-propyl-N-[4-[[N-methyl-N-(tetrahydropyran-4-yl)amino]methyl]phenyl]-2,3-dihydro-1-benzazepine-4-carboxamide | 391 mg | BrC=1C=CC2=C(C=C(CCN2CCC)C(=O)NC2=CC=C(C=C2)CN(C2CCOCC2)C)C1 | C27H34BrN3O2
reactant | potassium carbonate | 253 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakistriphenylphosphinepalladium | 35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[4-[[N-methyl-N-(tetrahydropyran-4-yl)amino]methyl]phenyl]-7-(4-morpholinophenyl)-1-propyl-2,3-dihydro-1-benzazepine-4-carboxamide | 222 mg | CN(C1CCOCC1)CC1=CC=C(C=C1)NC(=O)C=1CCN(C2=C(C1)C=C(C=C2)C2=CC=C(C=C2)N2CCOCC2)CCC | C37H46N4O3
